US07781436B2
1-(2-Methoxymethyl-phenyl)-piperazine
A solution of 4-(2-methoxymethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester (prepared as described herein below) in dioxan was treated with 4 eq. of 4M HCl in dioxane and stirred at RT for 16 h. After neutralization, the mixture was completely evaporated to give the crude title compound.

reactant | 4-(2-methoxymethyl-phenyl)-piperazine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCN(CC1)C1=C(C=CC=C1)COC | C17H26N2O3
reactant | HCl | 4M, 4 eq. | Cl | ClH
solvent | dioxan | O1CCOCC1 | C4H8O2
product | 1-(2-Methoxymethyl-phenyl)-piperazine | COCC1=C(C=CC=C1)N1CCNCC1 | C12H18N2O
